US09144239B2
Step 1: Preparation of (2R,3R)-dimethyl 2,3-bis((2-methylallyl)oxy)succinate
To a cooled (−10° C.) suspension of NaH (60% dispersion in mineral oil, 6.73 g, 168 mmol) in DMF (240 mL) was added dropwise a solution of (+)-dimethyl L-tartrate (15.0 g, 84.0 mmol) in DMF (40 mL) over a period of 30 min. After the addition was complete, the mixture was stirred for another 30 min at −10° C., and then 3-bromo-2-methylpropene (25.5 mL, 253 mmol) was added while maintaining the reaction temperature below 0° C. The mixture was stirred for 1.5 h at −10° C., quenched with H2O and saturated aqueous sodium chloride (NaCl, brine), and extracted with EtOAc. The phases were separated and the aqueous phase was further extracted with EtOAc. The combined organic phases were washed with brine, dried over magnesium sulfate (MgSO4), filtered, and concentrated to yield a yellow oil. Purification by flash chromatography (SiO2, hexanes/EtOAc gradient) yielded the title compound as a colorless oil (17.05 g, 71%): IR (neat) 2953, 1758, 1435, 1270, 1203, 1106 cm−1; 1H NMR (400 MHz, CDCl3) δ 4.92-4.86 (m, 4H), 4.37 (s, 2H), 4.19 (d, J=12.3 Hz, 2H), 3.82 (d, J=12.3 Hz, 2H), 3.77 (s, 6H), 1.68 (s, 6H); 13C NMR (101 MHz, CDCl3) δ 169.84, 141.04, 114.10, 78.60, 75.66, 52.22, 19.52; HRMS-ESI (m/z) [M]+ calcd for C14H22O6, 286.1416; found, 286.1417.

reactant | NaH | 168 mmol, 6.73 g | [H-].[Na+]
reactant | (+)-dimethyl L-tartrate | 84.0 mmol, 15.0 g | C(=O)(OC)[C@H](O)[C@@H](O)C(=O)OC | C6H10O6
reactant | 3-bromo-2-methylpropene | 253 mmol, 25.5 mL | BrCC(=C)C | C4H7Br
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (2R,3R)-dimethyl 2,3-bis((2-methylallyl)oxy)succinate | 17.05 g, 71% | CC(CO[C@@H](C(=O)OC)[C@H](C(=O)OC)OCC(=C)C)=C | C14H22O6
